US05008263
(c) 4,5-Diamino-3-methyl-1-(2-pyridyl)pyrazole
By the method of Preparation 8(b), 5-amino-3-methyl-4-nitroso-1-(2-pyridyl)pyrazole (1.37 g, 6.75 mmol) in ethanol/dichloromethane=4:1 (50 ml) was hydrogenated over 10% palladium on carbon at 20 p.s.i. to give the title compound (1.27 g, 100%).

reactant | 5-amino-3-methyl-4-nitroso-1-(2-pyridyl)pyrazole | 6.75 mmol, 1.37 g | NC1=C(C(=NN1C1=NC=CC=C1)C)N=O | C9H9N5O
solvent | ethanol dichloromethane | C(C)O.ClCCl
catalyst | palladium on carbon | [Pd] | Pd
product | 4,5-Diamino-3-methyl-1-(2-pyridyl)pyrazole | 1.27 g, 100% | NC=1C(=NN(C1N)C1=NC=CC=C1)C | C9H11N5
